US07148229B2
A solution of [4-(pyridin-2-ylsulfamoyl)-phenyl]-acetic acid ethyl ester (0.26 g, 0.813 mmol) in absolute ethanol (10 mL) was treated with a 1.0M ethanolic potassium hydroxide solution (2.0 mL, 2.0 mmol). The reaction mixture was heated to reflux under argon for 3.5 h. The reaction mixture was then concentrated in vacuo. The residue was dissolved in water and filtered through celite. The filtrate was acidified to pH=4.5 with a 1.0M aqueous hydrochloric acid solution. The resulting precipitate was collected by filtration, washed with water, and dried in vacuo to afford [4-(pyridin-2-ylsulfamoyl)-phenyl]-acetic acid (155 mg, 65%) as an off white solid; 1H NMR (DMSO-d6, 300 MHz) δH 12.26 (broad s, 1H), 7.96 (d, J=4.4 Hz, 1H), 7.77 (d, J=7.7 Hz, 2H), 7.80 (t, J=7.5 Hz, 1H), 7.37 (d, J=7.7 Hz, 2H), 7.13 (d, J=8.8 Hz, 1H), 6.82 (broad s, 1H), 3.62 (s, 2H); LRMS for C13H12N2O4S (M+H)+ at m/z=293.

reactant | [4-(pyridin-2-ylsulfamoyl)-phenyl]-acetic acid ethyl ester | 0.813 mmol, 0.26 g | C(C)OC(CC1=CC=C(C=C1)S(NC1=NC=CC=C1)(=O)=O)=O | C15H16N2O4S
reactant | potassium hydroxide | 2.0 mmol, 1.0M, 2.0 mL | [OH-].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | [4-(pyridin-2-ylsulfamoyl)-phenyl]-acetic acid | 155 mg, 65% | N1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)CC(=O)O | C13H12N2O4S
